US06680329B2
Lithium hydroxide (1.2 g, 28.6 mmol) is added, at 0° C., to a solution of methyl (S)-5-(5-amino-2-pyrazinyl)-2-[[(1,1-dimethylethoxy)carbonyl]amino]pentanoate (7.75 g, 23.9 mmol) in methanol (60 ml) and water (20 ml). The mixture is allowed to warm to room temperature and stirring is continued for 18 hours. The methanol is evaporated off under reduced pressure and the residue obtained is cooled to 0° C., acidified to pH 3-4 with 1N hydrochloric acid (30 ml), extracted with ethyl acetate (2×200 ml), washed with brine (50 ml), dried over sodium sulphate, filtered and concentrated under reduced pressure. 7.17 g of (S)-5-(5-amino-2-pyrazinyl)-2-[[(1,1-dimethylethoxy)carbonyl]amino]pentanoic acid are obtained in the form of a white powder, which is used without further purification in the following step.

reactant | Lithium hydroxide | 28.6 mmol, 1.2 g | [OH-].[Li+]
reactant | methyl (S)-5-(5-amino-2-pyrazinyl)-2-[[(1,1-dimethylethoxy)carbonyl]amino]pentanoate | 23.9 mmol, 7.75 g | NC=1N=CC(=NC1)CCC[C@@H](C(=O)OC)NC(=O)OC(C)(C)C | C15H24N4O4
reactant | hydrochloric acid | 1N, 30 ml | Cl | ClH
solvent | methanol | 60 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | (S)-5-(5-amino-2-pyrazinyl)-2-[[(1,1-dimethylethoxy)carbonyl]amino]pentanoic acid | 7.17 g, Yield (%)=97 | NC=1N=CC(=NC1)CCC[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C14H22N4O4
